US08071581B2
Compound 118: 6-(6-Methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-vinyl-quinoline
To a microwave vessel was added 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (500 mg, 1.41 mmol, 1 equiv), vinyl boronic acid (299 uL, 1.76 mmol, 1.25 equiv), K2CO3 (390 mg, 2.82 mmol, 2.0 equiv) followed by 1,4-dioxane (10 mL) and water (5 mL). The solution was degassed with nitrogen for 10 min and then dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (51 mg, 0.07 mmol, 0.05 equiv) was added. The microwave vessel was capped and reacted in a microwave reactor at 130° C. for 30 min. The microwave vessel was cooled and then the mixture was extracted into dichloromethane and washed with water. The volatiles were removed in vacuo and the residue absorbed onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH 100:0-80:20) to obtain the title compound as a brown oil (35% yield). Analytical data presented in Table 1.

reactant | 3-bromo-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 1.41 mmol, 500 mg, 1 equiv | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C16H12BrN5
reactant | vinyl boronic acid | 1.76 mmol, 299 uL, 1.25 equiv | C(=C)B(O)O | C2H5BO2
reactant | K2CO3 | 2.82 mmol, 390 mg, 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.07 mmol, 51 mg, 0.05 equiv | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | 5 mL | O | H2O
product | 6-(6-Methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3-vinyl-quinoline | 35% yield | CC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)C=C | C18H15N5
